US09029560B2
Preparation of (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea (P52)
The title compound was prepared as described in Example 35 using 3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoyl azide/3-(4-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (C35b) and 1-(2-isopropyl-5-methylphenyl)thiourea and isolated as a tan glassy foam (0.132 g, 46%).

reactant | 3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoyl azide 3-(4-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | FC(C1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCC(=O)N=[N+]=[N-])(F)F.N(=C=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F
reactant | 1-(2-isopropyl-5-methylphenyl)thiourea | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)N | C11H16N2S
product | (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(=O)NCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C31H29F3N6O2S
